US05821256
A solution of 1 g of 2-(4-nitrophenyl)-2-(1,3-dihydro-1,3-dioxoisoindol-5-yloxy)-N-(4-tertbutylphenylsulfonyl)acetamide in 25 ml of methanol is hydrogenated to completion at normal pressure and 20° on 1 g of Raney nickel. The mixture is filtered, the solvent is removed and 2-(4-aminophenyl)-2-(1,3-dihydro-1,3-dioxoisoindol-5-yloxy)-N-(4-tert-butylphenylsulfonyl)acetamide is obtained.

reactant | 2-(4-nitrophenyl)-2-(1,3-dihydro-1,3-dioxoisoindol-5-yloxy)-N-(4-tertbutylphenylsulfonyl)acetamide | 1 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC=1C=C2C(NC(C2=CC1)=O)=O | C26H23N3O8S
solvent | methanol | 25 ml | CO | CH4O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 2-(4-aminophenyl)-2-(1,3-dihydro-1,3-dioxoisoindol-5-yloxy)-N-(4-tert-butylphenylsulfonyl)acetamide | NC1=CC=C(C=C1)C(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC=1C=C2C(NC(C2=CC1)=O)=O | C26H25N3O6S
